US03949076
A mixture of 8.4 g. of 1,4,5,6-tetrahydropyrimidine and 7.8 g. of chloroacetaldehyde is refluxed in 100 ml. of acetone for two hours. The solvent is removed in vacuo and the residue is taken up in water and neutralized with 1N sodium hydroxide. Extracting with chloroform, drying and removing the solvent in vacuo gives 1,4,5,6-tetrahydropyrimidine-1-acetaldehyde.

reactant | 1,4,5,6-tetrahydropyrimidine | N1C=NCCC1 | C4H8N2
reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
solvent | acetone | CC(=O)C | C3H6O
product | 1,4,5,6-tetrahydropyrimidine-1-acetaldehyde | N1(C=NCCC1)CC=O | C6H10N2O
